US05059697
A reaction flask was charged with 1.97 g of 4-chlorotetrahydrophthalic anhydride and 0.98 g of activated carbon (DARCO KB-60). 1,2,4-trichlorobenzene (15 mL) was added and the reaction heated to 190° C. Analysis of the reaction mixture showed the formation of 4-chlorophthalic anhydride, with no phthalic anhydride formed at all.

reactant | 4-chlorotetrahydrophthalic anhydride | 1.97 g | ClC1CC2C(C(=O)OC2=O)C=C1 | C8H7ClO3
reactant | 1,2,4-trichlorobenzene | 15 mL | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | 4-chlorophthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
product | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
